US06713477B1
Step 1: 4-Methyl-2-(S)-[2-(RS)-(4-chlorophenyl)-4-oxo-thiazolidin-3-yl]-pentanoic Acid Methyl Ester
A suspension of (L)-leucine methyl ester (10 g, 55 mmol) and triethylamine (7.7 ml, 55 mmol) in 120 ml of dioxane was stirred at room temperature for 5 minutes. 3 Å molecular sieves were added followed by p-chlorobenzaldehyde (17 g, 121 mmol). The mixture was heated at 80° C. for 4 hrs. Mercaptoacetic acid (14.2 ml, 203.5 mmol) was added to the mixture and the heating was continued for an additional 12 hrs. The reaction mixture was cooled to room temperature, and diluted with ethyl acetate (40 ml) and water (30 ml). The reaction mixture was filtered to remove the molecular sieves. The organic layer was diluted with ethyl acetate (100 ml), washed twice with 60 ml of saturated solution of sodium carbonate, twice with aqueous 1N HCl and once with water. The organic layer was dried with MgSO4 and evaporated to give a residue that was carried out to the next step without further purification.

reactant | (L)-leucine methyl ester | 55 mmol, 10 g | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | triethylamine | 55 mmol, 7.7 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzaldehyde | 121 mmol, 17 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | Mercaptoacetic acid | 203.5 mmol, 14.2 ml | SCC(=O)O | C2H4O2S
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | 4-Methyl-2-(S)-[2-(RS)-(4-chlorophenyl)-4-oxo-thiazolidin-3-yl]-pentanoic Acid Methyl Ester | COC([C@H](CC(C)C)N1C(SCC1=O)C1=CC=C(C=C1)Cl)=O | C16H20ClNO3S
